US08604034B2
To a solution of 2-bromopyridine (380 μL, 4.0 mmol) in dry THF (15 mL) was added n-BuLi (1.6 M in hexanes, 2.5 mL, 4.0 mmol) at −78° C. The dark brown mixture was stirred for 30 minutes before a solution of ethyl 1H-pyrrol-1-ylacetate (720 mg, 4.7 mmol) in THF (5 mL) was added. The brown solution was stirred at −78° C. for 40 minutes and then at room temperature for 2 hours. The solution was poured into a saturated aqueous solution of NH4Cl (30 mL) and extracted with EtOAc (3×20 mL). The organic layers were dried (MgSO4), filtered and concentrated in vacuo to give a dark yellow oil that was purified by flash chromatography (Biotage SP4, 40 g cartridge, gradient 0-60% EtOAc in hexanes). To give 1-(Pyridine-2-yl)-2-(1H-pyrrol-1-yl)ethanone as a oil (470 mg, yield 63%). 1H-NMR (400 MHz, CDCl3): δ 5.60 (s, 2H), 6.23-6.27 (m, 2H), 6.69-6.72 (m, 2H), 7.54 (ddd, 1H, J 7.5, 4.8, 1.1 Hz), 7.88 (dt, 1H, J 7.7, 1.7 Hz), 8.06-8.10 (m, 1H), 8.69-8.73 (m, 1H).

reactant | 2-bromopyridine | 4.0 mmol, 380 μL | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-BuLi | 4.0 mmol, 1.6 M, 2.5 mL | [Li]CCCC
reactant | ethyl 1H-pyrrol-1-ylacetate | 4.7 mmol, 720 mg | N1(C=CC=C1)CC(=O)OCC | C8H11NO2
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(Pyridine-2-yl)-2-(1H-pyrrol-1-yl)ethanone | 470 mg, yield 63% | N1=C(C=CC=C1)C(CN1C=CC=C1)=O | C11H10N2O
